US06989382B2
Aqueous NaHCO3 (8 eq) was added to the stirred solution of [4-amino-3-(2,4-dichlorophenyl)phenyl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine (1 eq) in EtOAc at room temperature. 2-bromoacetyl chloride (1.5 eq) in minimal EtOAc was added slowly to the vigorously stirred reaction solution. The reaction was monitored by LC/MS and determined to be complete within 30 min. The organic layer was separated and washed with water, brine, dried (Na2SO4), filtered, and concentrated to dryness to give the crude N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-bromoacetamide as a dark yellow glass in 76% yield (˜90% pure, LC/MS m/z 555.2 MH+). The product was stored at −4° C. to avoid decomposition.

reactant | NaHCO3 | 8 eq | C(=O)(O)[O-].[Na+]
reactant | [4-amino-3-(2,4-dichlorophenyl)phenyl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine | 1 eq | NC1=C(C=C(C=C1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N)C1=C(C=C(C=C1)Cl)Cl | C19H18Cl2N6O2
reactant | 2-bromoacetyl chloride | 1.5 eq | BrCC(=O)Cl | C2H2BrClO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-bromoacetamide | 76% yield | NC1=C(C=CC(=N1)NCCNC1=CC(=C(C=C1)NC(CBr)=O)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C21H19BrCl2N6O3
